US06936612B2
A solution of 8-cyclopentyl-2-methanesulfinyl-5-methyl-7-oxo-7,8-dihydro-pyrido[2,3-d]pyrimidine-6-carboxylic acid ethyl ester (110 mg, 0.30 mmol) and 4-(6-amino-pyridin-3-yl)-piperazine-1-carboxylic acid tert-butyl ester (310 mg, 1.1 mmol) in toluene was heated at 100° C. for 10 hours and then cooled to room temperature. Diethyl ether was added to the reaction mixture and the product precipitated. This precipitate was collected by filtration and dried to provide 2-[5-(4-tert-butoxycarbonyl-piperazin-1-yl)-pyridin-2-ylamino]-8-cyclopentyl-5-methyl-7-oxo-7,8-dihydro-pyrido[2,3-d]pyrimidine-6-carboxylic acid ethyl ester (50 mg, 29%). M++1: Calc'd. 578.3. Found 578.4.

reactant | 8-cyclopentyl-2-methanesulfinyl-5-methyl-7-oxo-7,8-dihydro-pyrido[2,3-d]pyrimidine-6-carboxylic acid ethyl ester | 0.30 mmol, 110 mg | C(C)OC(=O)C1=C(C2=C(N=C(N=C2)S(=O)C)N(C1=O)C1CCCC1)C | C17H21N3O4S
reactant | 4-(6-amino-pyridin-3-yl)-piperazine-1-carboxylic acid tert-butyl ester | 1.1 mmol, 310 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C=1C=NC(=CC1)N | C14H22N4O2
reactant | Diethyl ether | C(C)OCC | C4H10O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2-[5-(4-tert-butoxycarbonyl-piperazin-1-yl)-pyridin-2-ylamino]-8-cyclopentyl-5-methyl-7-oxo-7,8-dihydro-pyrido[2,3-d]pyrimidine-6-carboxylic acid ethyl ester | 50 mg, 29% | C(C)OC(=O)C1=C(C2=C(N=C(N=C2)NC2=NC=C(C=C2)N2CCN(CC2)C(=O)OC(C)(C)C)N(C1=O)C1CCCC1)C | C30H39N7O5
